US06552088B2
To a solution of 50 mg (0.15 mmol) 2′-methyl-5-(4-methyl-piperazin-1-yl)-biphenyl-2-carboxylic acid methylamide in 2 ml THF 0.2 ml of a 1 M solution (0.2 mmol) of potassium hexamethyldisilazide in THF was added at 0°. After 20 min. 0.028 ml (0.15 mmol) 3,5-bis(trifluoromethyl)benzyl bromide was added dropwise to the resulting suspension. The reaction was quenched with water after 1.5 h. The mixture was diluted with 5 ml 2 N NaOH solution and extracted with 3 5-ml portions of ethyl acetate. The combined organic extracts were dried (Na2SO4) and evaporated. Chromatography (SiO2, CH2Cl2/methanol 19:1) gave 25 mg (29%) 2′-Methyl-5-(4-methyl-piperazin-1-yl)-biphenyl-2-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide, MS (ISP): 550.5 (M+H)+.

reactant | 2′-methyl-5-(4-methyl-piperazin-1-yl)-biphenyl-2-carboxylic acid methylamide | 0.15 mmol, 50 mg | CNC(=O)C=1C(=CC(=CC1)N1CCN(CC1)C)C1=C(C=CC=C1)C | C20H25N3O
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 0.15 mmol, 0.028 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2′-Methyl-5-(4-methyl-piperazin-1-yl)-biphenyl-2-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 25 mg, 29% | FC(C=1C=C(CN(C(=O)C=2C(=CC(=CC2)N2CCN(CC2)C)C2=C(C=CC=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C29H29F6N3O
